US08119422B2
e) Synthesis of methyl 4-hydroxy-3-(2-methoxypropyl)-5-methylbenzoate
A solution of methyl 4-acetoxy-3-allyl-5-methylbenzoate (175 mg, 0.75 mmol) in methanol (2 mL) was cooled in an ice-bath under a nitrogen atmosphere and treated with mercuric trifluoroacetate (322 mg, 1 equivalent). The reaction was stirred in the ice-bath for one hour by which time TLC analysis showed complete consumption of staring material. The reaction was then treated with 1 mL of 3 N NaOH and after vigorous stirring for 2 minutes, a solution of sodium borohydride (0.5 M, 1 mL) in 3 N NaOH was added. The back suspension was stirred for 5 minutes in the ice-bath and then ethyl acetate (25 mL) was added. After stirring for an additional 5 minutes, the ethyl acetate solution was decanted and then washed twice with saturated aqueous ammonium chloride. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The crude product (141 mg, oil) was purified by preparative TLC on silica using 15% ethyl acetate/hexanes. Purified Yield=82 mg (˜50%), MALDI-TOF 239 obs.

reactant | methyl 4-acetoxy-3-allyl-5-methylbenzoate | 0.75 mmol, 175 mg | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1C)CC=C | C14H16O4
reactant | methanol | 2 mL | CO | CH4O
product | methyl 4-hydroxy-3-(2-methoxypropyl)-5-methylbenzoate | OC1=C(C=C(C(=O)OC)C=C1C)CC(C)OC | C13H18O4
